US05674906
Synthesis of (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-L-prolineamide Hydrochloride
(E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-Boc-L-prolineamide (1,250 mg, 2.33 mmols) was dissolved in 10 ml of dichloromethane, and 5 ml of a solution of 4-M hydrochloric acid and dioxane were added thereto. The mixture was reacted at room temperature for 1 hour. One-hundred milliliters of diethyl ether were added thereto, and the mixture was filtered. The resulting powder was purified through medium-pressure liquid chromatography (ODS, mixture of water and acetonitrile at a ratio of 70:30). The product was recrystallized three times with a mixture of chloroform and ethyl acetate at a ratio by volume of 1:10 to produce 465 mg (0.980 mmols) of the final product in a yield of 42%.

reactant | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile Boc-L-prolineamide | 2.33 mmols, 1,250 mg | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OC(C)(C)C)N1[C@H](C(=O)N)CCC1
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | diethyl ether | One-hundred milliliters | C(C)OCC | C4H10O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile L-prolineamide Hydrochloride | 0.980 mmols, 465 mg, yield of 42% | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.Cl.N1[C@H](C(=O)N)CCC1 | InChI=1S/C19H20N2O4.C5H10N2O.ClH/c1-22-16-6-5-12(8-15(16)21)7-14(11-20)13-9-17(23-2)19(25-4)18(10-13)24-3;6-5(8)4-2-1-3-7-4;/h5-10H,21H2,1-4H3;4,7H,1-3H2,(H2,6,8);1H/b14-7-;;/t;4-;/m.0./s1
